US09260408B2
[B] 3-Bromo-5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridine
To a solution of (S)-(1-(5-bromopyridin-3-yl)pyrrolidin-2-yl)methanol (0.060 g, 0.233 mmol) in DCM (1 mL) cooled to 0° C. was added thionyl chloride (0.112 g, 0.932 mmol) dropwise. The reaction mixture was stirred at this temperature for 30 min and then allowed to warm up to room temperature and stirring was continued over night. The mixture was diluted with DCM, poured into aq. NaHCO3 (10 mL) and the aqueous layer was extracted with DCM (2×20 mL). Combined organics were washed with brine, dried over Na2SO4, filtered and evaporated to dryness to give the title compound (0.055 g, 86%) as an orange oil. MS: 275.0, 277.0 (M+H+).

reactant | (S)-(1-(5-bromopyridin-3-yl)pyrrolidin-2-yl)methanol | 0.233 mmol, 0.060 g | BrC=1C=C(C=NC1)N1[C@@H](CCC1)CO | C10H13BrN2O
reactant | thionyl chloride | 0.932 mmol, 0.112 g | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-((S)-2-chloromethyl-pyrrolidin-1-yl)-pyridine | 0.055 g, 86% | BrC=1C=NC=C(C1)N1[C@@H](CCC1)CCl | C10H12BrClN2
